US07470664B2
To a solution (60 nM) of L-tert-leucine methyl-ester hydrochloride and NaHCO3 (8 eq) in dry THF, a solution 20% w/w of phosgene in toluene (5 eq) was added dropwise at 0° C. and the reaction mixture was stirred at that temperature for 30 minutes. Then the solid was filtered-off and the filtrate evaporated at reduced pressure. The resulting crude yellow oil was taken-up in dry THF (0.3 M) and added dropwise to a stirred solution (0.2 M) of N-isopropylpent-4-en-1-amine and THF (1 eq). The reaction mixture was stirred at room temperature overnight. Then the mixture was taken-up in EtOAc and washed twice with water and brine. The organic phase was dried over Na2SO4 and the volatiles evaporated at reduced pressure. The crude was purified by flash chromatography eluting with petroleum ether (8) EtOAc (2) using Nynhydrin as stain. Methyl N-{[isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valinate was obtained as light yellow oil (43%).

reactant | L-tert-leucine methyl-ester hydrochloride | 60 nM | Cl.COC([C@@H](N)C(C)(C)C)=O
reactant | NaHCO3 | 8 eq | C(=O)(O)[O-].[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 5 eq | C1(=CC=CC=C1)C | C7H8
reactant | N-isopropylpent-4-en-1-amine | 0.2 M | C(C)(C)NCCCC=C | C8H17N
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1 eq | C1CCOC1 | C4H8O
product | Methyl N-{[isopropyl(pent-4-en-1-yl)amino]carbonyl}-3-methyl-L-valinate | C(C)(C)N(C(=O)N[C@@H](C(C)(C)C)C(=O)OC)CCCC=C | C16H30N2O3
